US05962458
2-Chloroethanol (3 g, 37 mmol) was added to a solution of 2-mercapto-1-methylimidazole (3.45 g, 30 mmol) in 2M aqueous sodium hydroxide solution (30 ml) and the mixture heated at 100° C. for 2 hours. The mixture was allowed to cool and extracted with ethyl acetate. The combined extracts were dried (MgSO4) and the solvent removed by evaporation to give 2-(2-hydroxyethylthio)-1-methylimidazole (3.9 g, 82%).

reactant | 2-Chloroethanol | 37 mmol, 3 g | ClCCO | C2H5ClO
reactant | 2-mercapto-1-methylimidazole | 30 mmol, 3.45 g | SC=1N(C=CN1)C | C4H6N2S
solvent | sodium hydroxide | 2M, 30 ml | [OH-].[Na+]
product | 2-(2-hydroxyethylthio)-1-methylimidazole | 3.9 g, 82% | OCCSC=1N(C=CN1)C | C6H10N2OS
